US07420001B2
A solution of 5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-carboxylic acid (0.43 g 1.37 mmole) in 25 mL of THF under nitrogen was placed in a water bath. To this solution was added 2 mL of BH3.THF (1.0M in THF, 2.06 mmole, 1.4 eq) dropwise. After 24 hours, The mixture was quenched with water, the solvent was concentrated in vacuo, and the residue was extracted with ethyl acetate. The organic layer washed with water, saturated sodium carbonate and brine, dried over sodium sulfate, filtered, and concentrated to provide 0.33 g of (5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-yl) methanol. Yield 80.5%; EA: Theory C: 52.15: H, 5.05. Found C: 52.26; H: 4.80.

reactant | 5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-carboxylic acid | 1.37 mmole, 0.43 g | BrC=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC(C)C | C13H13BrO4
reactant | BH3.THF | 2.06 mmole, 1.0M, 2 mL, 1.4 eq | B.C1CCOC1
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-yl) methanol | 0.33 g, Yield 80.5% | BrC=1C=CC2=C(C(=C(O2)CO)C)C1OC(C)C | C13H15BrO3
